US05273999
Preparation of 2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic Acid Ethyl Ester
A mixture of 0.352 g (0.99 mmol) of 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one, 0.346 g (1.02 mmol) of 2-hydroxy-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic acid ethyl ester, 0.574 g (4.15 mmol) of anhydrous granular potassium carbonate and 20.9 mL of 2-butanone was stirred and refluxed for 45 hrs. The resulting slurry was filtered with suction and the solids were washed thoroughly with ethyl acetate. The filtrate and washes were combined and concentrated in vacuo and the residue was purified by flash chromatography on 75 g of silica gel, eluting with 3:1 hexane-ethyl acetate, affording 0.352 g (58.1%) of the title compound as a white solid, mp 143.5°-144° C.

reactant | 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one | 0.99 mmol, 0.352 g | BrCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C17H23BrO3
reactant | 2-hydroxy-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic acid ethyl ester | 1.02 mmol, 0.346 g | C(C)OC(CCC1=C(C=CC(=C1)C=1OC(C2=C(C1)C=CC=C2)=O)O)=O | C20H18O5
reactant | potassium carbonate | 4.15 mmol, 0.574 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 20.9 mL | CC(CC)=O | C4H8O
product | 2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic Acid Ethyl Ester | 0.352 g, 58.1% | C(C)OC(CCC1=C(C=CC(=C1)C=1OC(C2=C(C1)C=CC=C2)=O)OCCCCCOC2=C(C1=C(C(CCO1)=O)C=C2)CCC)=O | C37H40O8
